US05250669
(1) Synthesis of methyl 10-oxo-13-phenyltridecanoate
To a suspension of magnesium (turnings, 17.1 g) in ethyl ether (300 ml), a solution of β-phenethyl bromide (140 g, 0.7 mol) in ethyl ether was added dropwise under mild reflux with vigorous stirring under nitrogen, and stirring was continued for 1 h under reflux. After cooling, the mixture (Grignard reagent) was added dropwise to a solution of 9-carbomethoxynonanoyl chloride (150.1 g, 0.64 mol) in ethyl ether (500 ml) at -50°~-30° C. The mixture was allowed to warm to room temperature, stirred for 2 h at the same temperature and poured into H2O (500 ml). The organic layer was separated, washed with H2O, dried over anhydrous MgSO4 and evaporated in vacuo. The residue (203 g) was chromatographed on silica gel (Wako Gel C-200, manufactured by Wako Pure Chemical Industries, Ltd.) with n-hexane/ethyl acetate (4:1) as eluent to afford the title compound as a colorless oil; yield: 99.7 g.

reactant | magnesium | 17.1 g | [Mg] | Mg
reactant | β-phenethyl bromide | 0.7 mol, 140 g | C1=CC=C(C=C1)CCBr | C8H9Br
reactant | 9-carbomethoxynonanoyl chloride | 0.64 mol, 150.1 g | C(=O)(OC)CCCCCCCCC(=O)Cl | C11H19ClO3
reactant | H2O | 500 ml | O | H2O
reactant | ethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | methyl 10-oxo-13-phenyltridecanoate | O=C(CCCCCCCCC(=O)OC)CCCC1=CC=CC=C1 | C20H30O3
